US04593035
To a solution of 6-amino-3,4-dihydrocarbostyril (3.24 g) in dimethylformamide (10 ml) is added 20N aqueous sodium hydroxide (1.2 ml) with stirring at room temperature. To the mixture is further added carbon disulfide (1.57 ml), and the mixture is stirred at the same temperature for 1 hour. To the reaction mixture is added methyl iodide (1.56 ml) under ice-cooling, and the mixture is stirred at the same temperature for 2.5 hours. After the reaction, the reaction mixture is poured into water, and the resulting precipitate is separated by filtration, washed with water, purified by silica gel column chromatography (solvent; chloroform:methanol=100:1), and recrystallized from methanol twice to give methyl (3,4-dihydrocarbostyril-6-yl)-dithiocarbamate (2.0 g) as yellow needles, m.p. 203.5°-205.0° C.

reactant | 6-amino-3,4-dihydrocarbostyril | 3.24 g | NC=1C=C2CCC(NC2=CC1)=O | C9H10N2O
reactant | sodium hydroxide | 20N, 1.2 ml | [OH-].[Na+]
reactant | carbon disulfide | 1.57 ml | C(=S)=S | CS2
reactant | methyl iodide | 1.56 ml | CI | CH3I
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | methyl (3,4-dihydrocarbostyril-6-yl)-dithiocarbamate | 2.0 g | N1C(=O)CCC2=CC(=CC=C12)NC(SC)=S | C11H12N2OS2
